Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLE swelling redness pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ hx chronic LLE swelling using compression stocking p/w 1
day PTA LLE redness, swelling, ankle pain, pain on ambulation.  

Patient states that he developed redness, swelling, pain of LLE
from foot to mid shin 1 day PTA.  He states that this happened
once before in ___.  Denies trauma.  No hx rheumatic
disease, was previously evaluated in ___ for similar 
episode
at ___. He states that prior to ED treatment, he had experienced
chills and feverishness.  Denies recent tick bite, or other
insect bite.  No hx ___ disease. Denies having joint aspiration
in past.

Denies history of DVT. Denies fever, chills, chest pain, cough,
shortness breath, nausea, vomiting, diarrhea, abdominal pain,
dysuria, HA, weakness.  He notes that the joint is tender to
move.
 
Past Medical History:
Deviated septum repair
Notes chronic swelling of LLE which he says is due to a 'vein
problem'
 
Social History:
___
Family History:
grandmother and aunt have chronic lower extremity edema
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, left ankle tenderness to
bending
SKIN: LLE with erythema from toes to mid shin, demarcated with
black marker line, swollen, tender to palpate diffusely within
erythema area, chronic quarter size burn mark on anterior 
lateral
ankle
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no L ankle pain with
passive and active ROM
SKIN: LLE with mostly resolved erythema, tender to palpation 
over
dorsum of foot
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 04:51PM BLOOD WBC-11.3* RBC-4.72 Hgb-14.0 Hct-41.0 
MCV-87 MCH-29.7 MCHC-34.1 RDW-12.0 RDWSD-38.5 Plt ___
___ 07:20AM BLOOD WBC-9.0 RBC-3.88* Hgb-11.7* Hct-34.5* 
MCV-89 MCH-30.2 MCHC-33.9 RDW-12.3 RDWSD-39.9 Plt ___
___ 09:00AM BLOOD WBC-5.5 RBC-4.15* Hgb-12.4* Hct-36.6* 
MCV-88 MCH-29.9 MCHC-33.9 RDW-12.4 RDWSD-40.2 Plt ___
___ 04:51PM BLOOD Neuts-86.1* Lymphs-9.0* Monos-3.4* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-9.75* AbsLymp-1.02* 
AbsMono-0.38 AbsEos-0.05 AbsBaso-0.04
___ 07:20AM BLOOD Neuts-84.5* Lymphs-8.3* Monos-5.5 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-7.60* AbsLymp-0.75* 
AbsMono-0.49 AbsEos-0.07 AbsBaso-0.03
___ 05:18PM BLOOD ___ PTT-30.1 ___
___ 07:20AM BLOOD ___ PTT-25.7 ___
___ 04:51PM BLOOD Glucose-109* UreaN-16 Creat-1.2 Na-139 
K-4.7 Cl-99 HCO3-28 AnGap-12
___ 07:20AM BLOOD Glucose-85 UreaN-14 Creat-1.0 Na-141 
K-4.6 Cl-104 HCO3-23 AnGap-14
___ 09:00AM BLOOD Glucose-81 UreaN-10 Creat-0.8 Na-143 
K-4.2 Cl-105 HCO3-24 AnGap-14
___ 07:20AM BLOOD ALT-12 AST-18 AlkPhos-50 TotBili-0.3
___ 05:18PM BLOOD Calcium-9.5 Phos-2.8 Mg-2.0 UricAcd-5.0
___ 05:18PM BLOOD RheuFac-19* CRP->300*
___ 09:00AM BLOOD CRP-163.6*
___ 05:09AM BLOOD %HbA1c-5.3 eAG-105

US Lower extremities:
No evidence of deep venous thrombosis in the left lower 
extremity veins.

Ankle Xray:
No radiographic evidence for osteomyelitis.

 
Brief Hospital Course:
___ w/ hx chronic LLE swelling using compression stocking, who 
presented with LLE erythema and edema consistent with 
cellulitis.

ACUTE/ACTIVE PROBLEMS:
# Sepsis secondary to cellulitis: presented with LLE erythema 
and edema consistent with cellulitis. He was febrile to 100.2 
with mild leukocytosis. CRP was > assay. Due to concern for 
septic arthritis of the L ankle, he had an Xray of the ankle 
that was negative for evidence of osteomyelitis. He was also 
evaluated by orthopedics who felt that joint infection was 
unlikely given preserved and pain free ROM at the ankle. 
Rheumatology was consulted to evaluate for possible underlying 
inflammatory disorder or arthritis. They thought this was 
unlikely but recommended rheumatology follow up as an outpatient 
to rule out any chronic ankle arthritis after acute edema 
resolves. US was negative for DVT. He was initially treated with 
vancomycin and ceftriaxone with significant improvement in his 
lower extremity erythema. He was transitioned to clindamycin at 
discharge to cover as well for possible strep pharyngitis (rapid 
strep positive at urgent care, had been started on penicillin as 
an outpatient)

# Chronic LLE swelling: unclear etiology, possible vascular 
abnormality: DVT was negative for clot. ___ benefit from further 
imaging as an outpatient as above

Transitional Issues:
- ___, and blood cultures serologies pending at discharge
- discharged on clindamycin with plans for a 14 day total course 
finishing ___
- needs PCP and rheumatology follow up (message left at ___ 
since patient interested in changing PCPs)
- may benefit from imaging or other further workup of his 
chronic left lower extremity edema

 
Medications on Admission:
none
 
Discharge Medications:
1.  Clindamycin 300 mg PO QID Duration: 12 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth four times a 
day Disp #*48 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cellulitis
Left lower extremity edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came into the hospital because you had redness and swelling 
in your leg. You had an ultrasound that did not show any clots. 
You also had an Xray that did not show any signs of infection in 
the bone. The orthopedic surgeons and rheumatologists saw you 
and did not think you had any signs of arthritis or infection in 
the ankle joint itself.

You will need to continue taking antibiotics for 12 days after 
leaving the hospital (two weeks total of antibiotics). Please 
follow up with a primary care doctor within one week of leaving 
the hospital.
 
Followup Instructions:
___